US07759468B1
Next, 4-nitrophthalic acid (21.1 g, 0.1 mole) in a round-bottomed flask was admixed with acetic anhydride (40 ml) and refluxed for 1 hour. The mixture was brought to room temperature and acetic anhydride was removed under vacuum. The concentrated mixture was allowed to stand overnight, and the solid obtained was recrystallized using toluene to give 4-nitrophthalic anhydride ((9.9 g (51%), Mp 119° C.)).

reactant | 4-nitrophthalic acid | 0.1 mole, 21.1 g | [N+](=O)([O-])C=1C=C(C(C(=O)O)=CC1)C(=O)O | C8H5NO6
solvent | acetic anhydride | 40 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 4-nitrophthalic anhydride | 9.9 g, 51% | [N+](=O)([O-])C=1C=C2C(C(=O)OC2=O)=CC1 | C8H3NO5
